US06441017B1
Step C: 1-(4-Cyano-3-fluorophenyl)-1-[1-(triphenylmethyl)imidazol-4-yl]ethanol
To a solution of 4-cyano-3-fluorophenyl 1-(triphenylmethyl)imidazol-4-yl ketone, as described above in Step B, (7.0 g, 15.3 mmol) in dry THF (280 mL), under argon, at −78° C., was added MeMgBr (5.3 mL of a 3.0M solution in Et2O, 15.9 mmol), dropwise. After 1 hour, the reaction mixture was quenched with saturated aqueous NH4Cl (100 mL) and extracted with CH2Cl2 (2×150 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with a gradient of hexane—30% to 50% EtOAc, to yield the titled product as pale solid.

reactant | 4-cyano-3-fluorophenyl 1-(triphenylmethyl)imidazol-4-yl ketone | C1(=CC=CC=C1)C(N1C=NC(=C1)C(=O)C1=CC(=C(C=C1)C#N)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H20FN3O
reactant | MeMgBr | C[Mg+].[Br-]
solvent | THF | 280 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 1-(4-Cyano-3-fluorophenyl)-1-[1-(triphenylmethyl)imidazol-4-yl]ethanol | C(#N)C1=C(C=C(C=C1)C(C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C31H24FN3O
